US08461167B2
N-[3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl]-4-methyl-3-{[5-(pyrrolidin-1-ylmethyl)pyridin-3-yl]ethynyl}benzamide
A mixture of 3-Ethynyl-5-(pyrrolidin-1-ylmethyl)pyridine (0.52 mmol), 0.245 g (0.52 mmol) of N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide (as prepared above), 0.030 g (0.026 mmol) of Pd(PPh3)4, 0.007 g (0.039 mmol) of CuI, and 0.14 mL (0.78 mmol) of diisopropylethylamine in 3.0 mL of DMF is stirred at ambient temperature overnight under an atmosphere of N2. The reaction mixture is concentrated and the crude product is purified by silica gel flash chromatography (eluted with 10% EtOAc/hexanes, then 100% EtOAc, then 10% MeOH/EtOAc) to provide the title product.

reactant | 3-Ethynyl-5-(pyrrolidin-1-ylmethyl)pyridine | 0.52 mmol | C(#C)C=1C=NC=C(C1)CN1CCCC1 | C12H14N2
reactant | N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | 0.52 mmol, 0.245 g | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)I)=O | C18H13F3IN3O
reactant | diisopropylethylamine | 0.78 mmol, 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.026 mmol, 0.030 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.039 mmol, 0.007 g | [Cu]I
product | N-[3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl]-4-methyl-3-{[5-(pyrrolidin-1-ylmethyl)pyridin-3-yl]ethynyl}benzamide | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C#CC=1C=NC=C(C1)CN1CCCC1)=O | C30H26F3N5O
